US06982274B2
1-Bromo-4-fluoro-2-propoxy-benzene
A total of 5 g of 2-bromo-5-fluoro-phenol was dissolved in 66 ml of N,N-dimethylformamide. Under ice-cooling, 5.42 g of potassium carbonate and 3.07 ml of iodopropane were added, and the mixture was stirred at room temperature for 10 hours. Water was added to the reaction mixture, followed by extracting with diethyl ether. The resulting organic layer was washed with brine, dried over magnesium sulfate and the solvent was evaporated, to give 8.29 g of the title compound as a yellow oil.

reactant | 2-bromo-5-fluoro-phenol | 5 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 5.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodopropane | 3.07 ml | ICCC | C3H7I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 66 ml | CN(C=O)C | C3H7NO
product | 1-Bromo-4-fluoro-2-propoxy-benzene | 8.29 g | BrC1=C(C=C(C=C1)F)OCCC | C9H10BrFO
